US05026856
4-chloroisoindoline
1H-NMR (CDCl3) δ: 7.33 and 7.76 (each 2H, ABq, J=10Hz, tosyl group ARM-H), 7.08-7.25 (3H, m, isoindoline ARM-H), 4.58 (4H, s, 2 x --CH2N--), 2.40 (3H, s, CH3) (3) The procedure of Reference Example 6-(3) was followed using 12.32 g of 2-(p-toluenesulfonyl)-4-chloroisoindoline, 10 g of phenol, 150 ml of 48% hydrobromic acid, and 20 ml of propionic acid. Through purification of the crude product by vacuum distillation 3.1 g of 4-chloroisoindoline was produced.

reactant | 2-(p-toluenesulfonyl)-4-chloroisoindoline | 12.32 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=CC=CC(=C2C1)Cl)C | C15H14ClNO2S
reactant | phenol | 10 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 150 ml | Br | BrH
solvent | propionic acid | 20 ml | C(CC)(=O)O | C3H6O2
product | 4-chloroisoindoline | ClC1=C2CNCC2=CC=C1 | C8H8ClN
